US06696473B2
C. Preparation of N-{4-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-3-ethylaminophenyl}acetamide
In a manner similar to Example 30, intermediate 3′-ethylamino-4′-nitroacetanilide was hydrogenated and then condensed with 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. 1H-NMR (CDCl3): δ 7.45-7.53 (3H, m), 7.27-7.37 (4H, m), 7.17 (1H, m), 7.03-7.09 (2H, m), 6.91 (1H, d), 6.83 (1H, br d), 6.75 (1H, br s), 5.18 (2H, s), 3.78 (3H, s), 2.99 (2H, m), 2.15 (3H, s), 1.03 (3H, t); MS(ESI): 530 (MH+).

reactant | 3′-ethylamino-4′-nitroacetanilide | C(C)NC=1C=C(NC(C)=O)C=CC1[N+](=O)[O-] | C10H13N3O3
reactant | 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=CC=C2)SC
product | N-{4-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-3-ethylaminophenyl}acetamide | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC2=C(C=C(C=C2)NC(C)=O)NCC | C28H27N5O2S2
